US04199346
2-(7-Chloro-2-dibenzofuranyloxy) propionamide
21.7 g (0.1 mole) 7-chloro-2-hydroxydibenzofuran is dissolved in 200 ml of tetrahydrofuran. To this solution is added 5.2 g sodium hydride (50% dispersion in oil) which was prewashed in petroleum ether. After hydrogen evolution had ceased, the solution was brought to reflux and 11.2 g (0.1 mole) of 2-chloropropionamide was added. The mixture was allowed to reflux for 8 hours. The solvent was evaporated and the crude product was washed with dilute acid and crystallized from methanol to yield 14.5 g, m.p. 185°-187° C. This Example corresponds to Example 20 in Table I.

reactant | 7-chloro-2-hydroxydibenzofuran | 0.1 mole, 21.7 g | ClC1=CC2=C(C3=C(O2)C=CC(=C3)O)C=C1 | C12H7ClO2
reactant | sodium hydride | 5.2 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 2-chloropropionamide | 0.1 mole, 11.2 g | ClC(C(=O)N)C | C3H6ClNO
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 2-(7-Chloro-2-dibenzofuranyloxy) propionamide | ClC1=CC2=C(C3=C(O2)C=CC(=C3)OC(C(=O)N)C)C=C1 | C15H12ClNO3
